US20010049441A1
3-(Octahydro-7-indolizinyl)-1-benzenesulfonyl-5-azaindole (11.9 mg, 75.3%);
from 3-(octahydro-7-indolizinyl)-1-H-5-azaindole (10 mg, 0.0415 mmol), benzenesulfonyl chloride (12 μL, 0.094 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (0.5 mL) at RT.

reactant | 3-(octahydro-7-indolizinyl)-1-H-5-azaindole | 0.0415 mmol, 10 mg | C1CCN2CCC(CC12)C1=CNC2=CC=NC=C12 | C15H19N3
reactant | benzenesulfonyl chloride | 0.094 mmol, 12 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(Octahydro-7-indolizinyl)-1-benzenesulfonyl-5-azaindole | C1CCN2CCC(CC12)C1=CN(C2=CC=NC=C12)S(=O)(=O)C1=CC=CC=C1 | C21H23N3O2S
